US07119102B2
2-Amino-1-pyridin-2-yl-ethanol (0.700 g, 5.07 mmol) and N-boc-piperidone (1.20 g, 5.90 mmol) was dissolved in 5 mL of 1,2-dichloroethane. Glacial acetic acid (0.40 mL, 7.0 mmol) was added followed by sodium tricaetoxyborohydride (2.00 g, 8.97 mmol). This mixture was stirred at room temperature under argon for 16 h. The solvent was removed in vacuo and the residue was purified by flash chromatography (silica gel 12 g, eluted with dichloromethane, MeOH and ammonium hydroxide 100 to 95:4.9:0.1) to give 4-(2-hydroxy-2-pyridin-2-yl-ethylamino)-piperidine-1-carboxylic acid tert-butyl ester as a brown oil (1.46 g, 90%).

reactant | 2-Amino-1-pyridin-2-yl-ethanol | 5.07 mmol, 0.700 g | NCC(O)C1=NC=CC=C1 | C7H10N2O
reactant | N-boc-piperidone | 5.90 mmol, 1.20 g | C(=O)(OC(C)(C)C)N1C(CCCC1)=O | C10H17NO3
reactant | acetic acid | 7.0 mmol, 0.40 mL | C(C)(=O)O | C2H4O2
reactant | sodium | [Na] | Na
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
product | 4-(2-hydroxy-2-pyridin-2-yl-ethylamino)-piperidine-1-carboxylic acid tert-butyl ester | 1.46 g, 90% | C(C)(C)(C)OC(=O)N1CCC(CC1)NCC(C1=NC=CC=C1)O | C17H27N3O3
